US05321026
A 3.3N solution (6.2 cc) of hydrochloric acid in isopropyl ether is added dropwise in the course of 5 minutes to a solution of N-propyl-10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide, L series (7.2 g), in anhydrous ethyl acetate (80 cc). The product deposits on the walls and crystallizes on scratching. The suspension obtained is maintained for one hour at a temperature in the region of 5° C. The solid is drained, washed with anhydrous ethyl acetate (3×5 cc) and dried under reduced pressure (5 mm Hg; 0.7 kPa) at 40° C. to give N-propyl-10-[1-(1-pyrroli-dinyl)-2-propyl]-2-phenothiazinecarboxamide hydrochloride, L series (7.1 g), in the form of a white solid, m.p. 190° C.

reactant | hydrochloric acid | Cl | ClH
reactant | N-propyl-10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide | C(CC)NC(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C | C23H29N3OS
solvent | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | ethyl acetate | 80 cc | C(C)(=O)OCC | C4H8O2
product | N-propyl-10-[1-(1-pyrroli-dinyl)-2-propyl]-2-phenothiazinecarboxamide hydrochloride | Cl.C(CC)NC(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C | InChI=1S/C23H29N3OS.ClH/c1-3-12-24-23(27)18-10-11-22-20(15-18)26(17(2)16-25-13-6-7-14-25)19-8-4-5-9-21(19)28-22;/h4-5,8-11,15,17H,3,6-7,12-14,16H2,1-2H3,(H,24,27);1H
